US04959381
4-Amino-3-chloro-α-[[(phenylmethyl)[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]-5-(trifluoromethyl)benzenemethanol
1-[4-Amino-3-chloro-5-(trifluoromethyl)phenyl]-2-bromoethanone (2.1 g), N-[6-[2-(2-pyridinyl)ethoxy]hexyl]benzenemethanamine (2.20 g) and N,N-diisopropylethylamine (0.94 g) were stirred together in tetrahydrofuran (45 ml) for 24 h at room temperature under nitrogen. The mixture was filtered and the filtrate evaporated in vacuo. The residue was dissolved in methanol (80 ml) and sodium borohydride (0.63 g) was added portionwise to the solution at 0° under nitrogen. The mixture was stirred for 1 h and then 2N hydrochloric acid (40 ml) was added. The solvent was evaporated in vacuo, the residue partitioned between 8% sodium bicarbonate solution (150 ml) and ethyl acetate (100 ml). The organic phase was separated, and the aqueous phase re-extracted with ethyl acetate (100 ml). The combined organic extracts were dried and evaporated in vacuo to give a yellow oil. Purification by FCC eluting with toluene-ethanol-triethylamine (98:2:1) afforded the title compound as a yellow oil (1.59 g).

reactant | 1-[4-Amino-3-chloro-5-(trifluoromethyl)phenyl]-2-bromoethanone | 2.1 g | NC1=C(C=C(C=C1C(F)(F)F)C(CBr)=O)Cl | C9H6BrClF3NO
reactant | N-[6-[2-(2-pyridinyl)ethoxy]hexyl]benzenemethanamine | 2.20 g | N1=C(C=CC=C1)CCOCCCCCCNCC1=CC=CC=C1 | C20H28N2O
reactant | N,N-diisopropylethylamine | 0.94 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 4-Amino-3-chloro-α-[[(phenylmethyl)[6-[2-(2-pyridinyl)ethoxy]hexyl]amino]methyl]-5-(trifluoromethyl)benzenemethanol | 1.59 g | NC1=C(C=C(C=C1C(F)(F)F)C(O)CN(CCCCCCOCCC1=NC=CC=C1)CC1=CC=CC=C1)Cl | C29H35ClF3N3O2
